US05945431
compound #15 [1,6]naphthyridine-2-carboxylic acid (trans-2-phenyl-cyclopropyl)-amide
To a stirring mixture of trans-2-phenylcyclopropylamine hydrochloride (75.3 mg, 0.431) in anhydrous DMF (1.0 mL) was added triethylamine (60.0 μL, 0.431 mmol). After 5 minutes, 2-[1,6]naphthyridinecarboxylic acid (50 mg, 0.287 mmol), 1-hydroxybenzotriazole hydrate (42.7 mg, 0.316 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarboiimide hydrochloride (61.8 mg, 0.316 mmol) were added sequentially. The resulting mixture was allowed to stir at room temperature overnight and it was found to be clear. The solvent was removed under vacuum. Flash column chromatography of the residue (50% hexane/ethyl acetate to 100% ethyl acetate) afforded the desired product as a white solid (79.2 mg, 95 m) m.p. 123-124° C.

reactant | trans-2-phenylcyclopropylamine hydrochloride | 75.3 mg | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)N
reactant | triethylamine | 0.431 mmol, 60.0 μL | C(C)N(CC)CC | C6H15N
reactant | 2-[1,6]naphthyridinecarboxylic acid | 0.287 mmol, 50 mg | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.316 mmol, 42.7 mg | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | [1,6]naphthyridine-2-carboxylic acid (trans-2-phenyl-cyclopropyl)-amide | 79.2 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)NC(=O)C1=NC2=CC=NC=C2C=C1 | C18H15N3O
